US05214037
To a solution of 4-acetylthiomethylthio-1,2,3-triazole (230 mg : 1.22 mMol.) in dimethylformamide (6 ml) is dropwise added a 1.26N-sodium methoxide in methanol (1.9 ml) at -60° C., and the mixture is stirred at the same temperature for 25 minutes, and cooled to -78° C. To the reaction mixture is dropwise added a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)-2-(2-propenyloxyimino)acetamido]-3 methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester (770 mg : 1 mMol.) in dimethylformamide (3 ml), and the mixture is stirred at the same temperature for 40 minutes. The reaction mixture is diluted with 1N-hydrochloric acid (2 ml) and water (50 ml), and extracted with ethyl acetate. The extract is washed with water, dried over sodium sulfate, and purified by silica gel chromatography (toluene : ethyl acetate=2:1). The eluted material is crystallized from toluene to give 7β-](Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl) 2-(2propentyloxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4- carboxylic acid diphenylmethyl ester (415 mg) as colorless crystals. Yield : 51%. mp. 167° to 170° C. (decomposition).

reactant | 4-acetylthiomethylthio-1,2,3-triazole | 1.22 mMol, 230 mg | C(C)(=O)SCSC=1N=NNC1 | C5H7N3OS2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)-2-(2-propenyloxyimino)acetamido]-3 methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester | 1 mMol, 770 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OCC=C)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)OS(=O)(=O)C | C34H35N5O10S3
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | methanol | 1.9 ml | CO | CH4O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 2 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 3-(1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4- carboxylic acid diphenylmethyl ester | 415 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2)=O)SCSC=2N=NNC2 | C23H20N4O3S3
